US07855298B2
Preparation 28: Methyl bromo{4-[(trifluoromethyl)oxy]phenyl}acetate
To a solution of 4-trifluoromethoxyphenylacetic acid (5 g, 23 mmol) in carbon tetrachloride oxalyl chloride (25 mmol) and two drops of DMF were added at 0° C. After stirring the solution at room temperature for 1 h, NBS (25 mmol) and few drops of 48% HBr were added and the mixture was heated to reflux for 4 h. The solution was allowed to cool, MeOH (5 mL) was added and the mixture was stirred at room temperature for 1 h. After filtration through a pad of silica gel, the filtrate was evaporated in vacuo to give 7.2 g of the title compound as yellow foam, which was used in the subsequent step without further purification.

reactant | 4-trifluoromethoxyphenylacetic acid | 23 mmol, 5 g | FC(OC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O3
reactant | carbon tetrachloride oxalyl chloride | 25 mmol | C(C(=O)Cl)(=O)Cl.C(Cl)(Cl)(Cl)Cl
reactant | NBS | 25 mmol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | HBr | Br | BrH
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | MeOH | 5 mL | CO | CH4O
product | Methyl bromo{4-[(trifluoromethyl)oxy]phenyl}acetate | 7.2 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC(F)(F)F | C10H8BrF3O3
